US09375002B2
0.20 g (0.84 mmol) of 5-chloro-2-(methylsulfonyl)pyrimidine-4-carboxylic acid, 0.15 g (1.01 mmol) of (1R)-1,2,3,4-tetrahydronaphthalene-1-amine and 0.33 g (1.69 mmol) of dicyclohexylmethylamine in 1.5 ml of N-methylpyrrolidone are heated in a closed cuvette in the microwave at 150° C. for 30 minutes (Biotage Initiator, http://www.biotage.com/DynPage.aspx?id=22001). The crude mixture obtained in this manner is applied to silica gel and purified by column chromatography using the mobile phase heptane/ethyl acetate. Concentration gives initially 0.024 g of 5-chloro-N-[(1R)-1,2,3,4-tetrahydronaphthalen-1-yl]pyrimidine-2-amine (solid) and then 0.08 g of 2-(methylsulfonyl)-N-[(1R)-1,2,3,4-tetrahydronaphthalen-1-yl]pyrimidine-5-amine (wax-like, yield 31% at a purity of 95%).

reactant | 5-chloro-2-(methylsulfonyl)pyrimidine-4-carboxylic acid | 0.84 mmol, 0.20 g | ClC=1C(=NC(=NC1)S(=O)(=O)C)C(=O)O | C6H5ClN2O4S
reactant | (1R)-1,2,3,4-tetrahydronaphthalene-1-amine | 1.01 mmol, 0.15 g | [C@H]1(CCCC2=CC=CC=C12)N | C10H13N
reactant | dicyclohexylmethylamine | 1.69 mmol, 0.33 g | C1(CCCCC1)C(C1CCCCC1)N | C13H25N
solvent | N-methylpyrrolidone | 1.5 ml | CN1C(CCC1)=O | C5H9NO
product | 5-chloro-N-[(1R)-1,2,3,4-tetrahydronaphthalen-1-yl]pyrimidine-2-amine | 0.024 g, yield 31% | ClC=1C=NC(=NC1)N[C@@H]1CCCC2=CC=CC=C12 | C14H14ClN3
